OP-Amp subcircuit

* Circuit Description
* We will used voltage control current source and voltage control voltage source
* to make a small signal model

.subckt small_signal_opamp 1 2 4
* conections:			   | | |
*					  output | |
*					 +ve input |
*					   -ve input


Ginput 0 3 2 4 10
Iopen1 2 0 0 ; redundant connection made at +ve input terminal
Iopen2 4 0 0 ; redundant connection made at -ve input terminal

* Circuit elements to make it non-ideal with limited BW
R1 3 0 1k
C1 3 0 159.15n

* Assume single ended output opamp ==> the second end is grounded
* The gain will be 1 because we need it as a buffer
Eopamp 1 0 3 0 1

.ends small_signal_opamp
